US06838463B2
To 5 ml of N,N-dimethylformamide were added 0.43 g of 4-chloro-6-(2-propynyloxy)pyrimidine, 0.52 g of potassium carbonate, and 0.4 g of 2,6-difluorophenol, followed by stirring at 60° C. for 7 hours. The reaction mixture was then left for cooling to room temperature and poured into a saturated aqueous ammonium chloride solution, which was extracted three times with chloroform. The chloroform layers were combined, washed with diluted hydrochloric acid and then with water, and dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 0.53 g of 4-(2,6-difluorophenoxy)-6-(2-propynyloxy)pyrimidine (the present compound (21)), m.p.: 67.2° C.

reactant | 4-chloro-6-(2-propynyloxy)pyrimidine | 0.43 g | ClC1=NC=NC(=C1)OCC#C | C7H5ClN2O
reactant | potassium carbonate | 0.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-difluorophenol | 0.4 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(2,6-difluorophenoxy)-6-(2-propynyloxy)pyrimidine | 0.53 g | FC1=C(OC2=NC=NC(=C2)OCC#C)C(=CC=C1)F | C13H8F2N2O2
